US08084649B2
To a mixture of 3-oxaspiro[5.5]undecane-8,10-dione (0.182 g, 1 mmol) and 4-dimethylamino-pyridine (0.61 g; 5 mmol) is added dry chloroform (4 ml), and the mixture is stirred under an atmosphere of nitrogen at room temperature until the solid dissolves. To this solution is then added dry toluene (2 ml), and then a solution of 3,5-dimethylbiphen-4-yllead triacetate (1.2 mmol) in chloroform is added. The reaction mixture is heated under reflux for 1 hour, then cooled to room temperature, acidified to pH=1 with 2N aqueous hydrochloric acid, filtered and the filtrate is extracted with dichloromethane (2×40 ml). The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated in vacuo. The residue is purified by column chromatography over silica gel to give 9-(3,5-dimethylbiphenyl-4-yl)-3-oxa-spiro[5.5]undecane-8,10-dione.

reactant | 3-oxaspiro[5.5]undecane-8,10-dione | 1 mmol, 0.182 g | C1COCCC12CC(CC(C2)=O)=O | C10H14O3
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3,5-dimethylbiphen-4-yllead triacetate | 1.2 mmol | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].CC1=CC(=CC(=C1[Pb+3])C)C1=CC=CC=C1
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | 4-dimethylamino-pyridine | 5 mmol, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-(3,5-dimethylbiphenyl-4-yl)-3-oxa-spiro[5.5]undecane-8,10-dione | CC=1C=C(C=C(C1C1C(CC2(CCOCC2)CC1=O)=O)C)C1=CC=CC=C1 | C24H26O3
